US04722929
(a) 3-[(2-Dimethylamino-4-nitro-benzoyl)-amino]-2-amino-6-methoxy-pyridine
An amount of 1.05 gm of 2-dimethylamino-4-nitro-benzoic acid is suspended in 35 ml of phosphorus oxychloride, and 1.05 gm of 2,3-diamino-6-methoxy-pyridine dihydrochloride are added thereto. The mixture is refluxed for 5 minutes, left to cool for 15 minutes with stirring, and finally decomposed with water. The solution obtained is cooled and poured onto a mixture of ice and concentrated ammonia. The product is then precipitated. It is subjected to suction filtration, washed with water, and dried in a circulating air drier at 50° C.

reactant | 2-dimethylamino-4-nitro-benzoic acid | 1.05 gm | CN(C1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-])C | C9H10N2O4
reactant | 2,3-diamino-6-methoxy-pyridine dihydrochloride | 1.05 gm | Cl.Cl.NC1=NC(=CC=C1N)OC
reactant | water | O | H2O
reactant | ammonia | N | H3N
solvent | phosphorus oxychloride | 35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 3-[(2-Dimethylamino-4-nitro-benzoyl)-amino]-2-amino-6-methoxy-pyridine | CN(C1=C(C(=O)NC=2C(=NC(=CC2)OC)N)C=CC(=C1)[N+](=O)[O-])C | C15H17N5O4
